US06291491B1
To a solution of 1.00 g (2.37 mmol) of (R)-N-[2-(4-nitrophenyl)ethyl]-2-hydroxy-2-(6-chloro-2-pyridyl)ethylcarbamic acid 1,1-dimethylethyl ester in 60 mL of methanol under an atmosphere of nitrogen was added 1.35 g (7.12 mmol) of tin(II) chloride. The mixture was heated at reflux for 5 h then cooled to room temperature. Saturated aqueous sodium bicarbonate solution was added followed by ethyl acetate. The resulting emulsion was filtered through Celite and the organic phase separated. The aqueous phase was re-extracted twice with ethyl acetate. The combined organic phase was washed twice with water, brine, dried over magnesium sulfate and the solvent removed in vacuo. Biotage chromatography (40M column, 30, 35% ethyl acetate-hexanes) afforded 510 mg (55%) of (R)-N-[2-(4-aninophenyl)ethyl]-2-hydroxy-2-(6-chloro-2-pyridyl)ethylcarbamic acid 1,1-dimethylethyl ester.

reactant | (R)-N-[2-(4-nitrophenyl)ethyl]-2-hydroxy-2-(6-chloro-2-pyridyl)ethylcarbamic acid 1,1-dimethylethyl ester | 2.37 mmol, 1.00 g | CC(C)(C)OC(N(CCC1=CC=C(C=C1)[N+](=O)[O-])C[C@H](C1=NC(=CC=C1)Cl)O)=O | C20H24ClN3O5
reactant | tin(II) chloride | 7.12 mmol, 1.35 g | [Sn](Cl)Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 60 mL | CO | CH4O
product | (R)-N-[2-(4-aninophenyl)ethyl]-2-hydroxy-2-(6-chloro-2-pyridyl)ethylcarbamic acid 1,1-dimethylethyl ester | 510 mg, 55% | CC(C)(C)OC(N(CCC1=CC=C(C=C1)N)C[C@H](C1=NC(=CC=C1)Cl)O)=O | C20H26ClN3O3
